US04155904
Reflux 0.005 moles of 2-(2-ethyl-methylamino)-5-chlorobenzophenone, 0.020 moles of hexamethylenetetramine and 0.020 moles of ammonium bromide together for 2 hours in 14 ml. of 85% (v/v) aqueous isopropyl alcohol. Pour the reaction mixture into water and extract the product with benzene. Wash the benzene solution with water, dry over anhydrous sodium sulfate, filter and evaporate to dryness. After recrystallization, 7-chloro-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepine is obtained. The material gives a single spot by thin layer chromatography, and after drying under vacuum at 110° C., shows no depression on mixed melting point with an authentic sample.

reactant | 2-(2-ethyl-methylamino)-5-chlorobenzophenone | 0.005 moles | CCN(C1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)C | C16H16ClNO
reactant | hexamethylenetetramine | 0.020 moles | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonium bromide | 0.020 moles | [Br-].[NH4+]
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 7-chloro-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCCN2C)C2=CC=CC=C2)C1 | C16H15ClN2
